US08252792B2
1-Butoxy-3-{4-[2-(1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-propan-2-ol
To a stirred solution of 2-(1H-indol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine (50 mg) in N,N-dimethylformamide (3 mL) at r.t. was added 0.1 M Na2HPO4pH 6.8 buffer (0.5 mL) and butyl glycidyl ether (18 μL) and the resulting cloudy mixture was heated at 55° C. for 3 days with 2 extra equivalents of butyl glycidyl ether (18 μL) added during this time. The reaction mixture was partitioned between EtOAc (15 mL) and brine (15 mL), the organic layer was dried (Na2SO4), concentrated and the residue purified by flash chromatography (silica; 96:4 EtOAc/MeOH as eluent) to give an off-white solid (38 mg).

reactant | 2-(1H-indol-4-yl)-4-morpholin-4-yl-6-piperazin-1-ylmethyl-thieno[3,2-d]pyrimidine | 50 mg | N1C=CC2=C(C=CC=C12)C=1N=C(C2=C(N1)C=C(S2)CN2CCNCC2)N2CCOCC2 | C23H26N6OS
reactant | butyl glycidyl ether | 18 μL | C(C1CO1)OCCCC | C7H14O2
reactant | butyl glycidyl ether | 18 μL | C(C1CO1)OCCCC | C7H14O2
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | 1-Butoxy-3-{4-[2-(1H-indol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperazin-1-yl}-propan-2-ol | 38 mg | C(CCC)OCC(CN1CCN(CC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=CNC2=CC=C1)O | C30H40N6O3S
